US05728892
The reaction was carried out in a 2.5 litre double-walled glass reactor provided with a cooler, turbine stirrer (6 blades), thermocouple and a submerged metering tube. A mixture of 1065 grams of benzaldehyde (10.0 mol), 48.8 grams of pyrrolidine (0.679 mol) and 1.8 grams of diphenylamine was heated to 85° C. Over a period of 180 minutes, 878 grams of acidified (0.34 meq/gram) octanal (6.648 mol) were metered in at 85° C. Acidification of the octanal was effected with 16.9 grams of acetic acid (0.281 mol). The reaction was allowed to continue at 85° C. for a further 15 minutes. The reaction mixture was cooled to 65° C. and washed at 50° C., for 15 minutes, with 500.3 grams of 5% strength aqueous NaOH solution (0.625 mol). After neutralization with 78 grams of acetic acid (1.30 mol) for 15 minutes at 50° C., the reaction mixture was separated at 50° C., over a period of 5 to 6 minutes. The organic layer (1869.8 grams) contained 25.5% of benzaldehyde, 2.1% of octanal, 59.8% of α-hexylcinnamaldehyde and 4.6% of α-hexyldecenal. The degrees of conversion of benzaldehyde and octanal were 55.2% and 95.5%, respectively. The selectivity in producing α-hexylcinnamaldehyde was 93.5% with respect to benzaldehyde and 81.4% with respect to octanal.

reactant | benzaldehyde | 10.0 mol, 1065 grams | C(C1=CC=CC=C1)=O | C7H6O
reactant | pyrrolidine | 0.679 mol, 48.8 grams | N1CCCC1 | C4H9N
reactant | diphenylamine | 1.8 grams | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | octanal | 6.648 mol | C(CCCCCCC)=O | C8H16O
reactant | acetic acid | 0.281 mol, 16.9 grams | C(C)(=O)O | C2H4O2
reactant | NaOH | 0.625 mol | [OH-].[Na+]
reactant | acetic acid | 1.30 mol, 78 grams | C(C)(=O)O | C2H4O2
product | α-hexylcinnamaldehyde | C(CCCCC)C(C=O)=CC1=CC=CC=C1 | C15H20O
